US04346088
4-(3-Diethylsulfamoyl-4-chlorophenyl)-2-(4-chlorophenyl-imino)-3-methyl-4-thiazoline hydrobromide
Obtained (a) by a procedure analogous to that indicated in Example 1(a), from 3'-diethylsulfamoyl-2-bromo-4'-chloroacetophenone and 1-(4-chlorophenyl)-3-methylthiourea, or (b) by a procedure analogous to that of Example 1(b), by boiling 4-(3-diethylsulfamoyl-4-chlorophenyl)-2-(4-chlorophenyl-imino)-3-methylthiazolidin-4-ol hydrobromide for 2 hours in glacial acetic acid and filtering off the crystals after cooling. Melting point 207° C. (with decomposition).

reactant | 3'-diethylsulfamoyl-2-bromo-4'-chloroacetophenone | C(C)N(S(=O)(=O)C=1C=C(C=CC1Cl)C(CBr)=O)CC | C12H15BrClNO3S
reactant | 1-(4-chlorophenyl)-3-methylthiourea | ClC1=CC=C(C=C1)NC(=S)NC | C8H9ClN2S
reactant | 4-(3-diethylsulfamoyl-4-chlorophenyl)-2-(4-chlorophenyl-imino)-3-methylthiazolidin-4-ol hydrobromide | Br.C(C)N(S(=O)(=O)C=1C=C(C=CC1Cl)C1(N(C(SC1)=NC1=CC=C(C=C1)Cl)C)O)CC
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(3-Diethylsulfamoyl-4-chlorophenyl)-2-(4-chlorophenyl-imino)-3-methyl-4-thiazoline hydrobromide | Br.C(C)N(S(=O)(=O)C=1C=C(C=CC1Cl)C=1N(C(SC1)=NC1=CC=C(C=C1)Cl)C)CC | InChI=1S/C20H21Cl2N3O2S2.BrH/c1-4-25(5-2)29(26,27)19-12-14(6-11-17(19)22)18-13-28-20(24(18)3)23-16-9-7-15(21)8-10-16;/h6-13H,4-5H2,1-3H3;1H
